US08022062B2
5-Methanesulfonyloxymethyl-2-(3-methyl-butyryl)-pyridine:
Dissolve 5-hydroxymethyl-2-(3-methyl-butyryl)-pyridine (210 mg, 1.086 mmol) in dichloromethane (5 mL). Cool to 0° C. and add triethylamine (0.167 mL, 1.195 mmol) and methanesulfonyl chloride (0.093 mL, 1.195 mmol). Allow the mixture to warm to room temperature and stir for 2 h. Dilute the reaction mixture with dichloromethane and wash with saturated aqueous NaHCO3. Dry the organic phase over Na2SO4, filter and concentrate in vacuo to provide the title compound (256 mg, 87%). GC-MS m/z: 271

reactant | 5-hydroxymethyl-2-(3-methyl-butyryl)-pyridine | 1.086 mmol, 210 mg | OCC=1C=CC(=NC1)C(CC(C)C)=O | C11H15NO2
reactant | triethylamine | 1.195 mmol, 0.167 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.195 mmol, 0.093 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 5-Methanesulfonyloxymethyl-2-(3-methyl-butyryl)-pyridine | 256 mg, 87% | CS(=O)(=O)OCC=1C=CC(=NC1)C(CC(C)C)=O | C12H17NO4S
